US07919628B2
82 mg 2-{[1-(5,6-dichloro-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester in 0.5 ml MeOH and 0.5 ml 2 M aqueous sodium hydroxide solution were heated to 120° C. for 3 min using a microwave reactor. The reaction mixture was acidified with 2 M HCl and the precipitated solid was collected by filtration and purified by RP-HPLC to yield 36 mg 2-{[1-(5-chloro-6-methoxy-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid.

reactant | 2-{[1-(5,6-dichloro-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 82 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC=1C=NC(=C(C1)Cl)Cl)=O | C22H20Cl2N2O4
reactant | HCl | 2 M | Cl | ClH
reactant | MeOH | 0.5 ml | CO | CH4O
solvent | sodium hydroxide | 2 M, 0.5 ml | [OH-].[Na+]
product | 2-{[1-(5-chloro-6-methoxy-pyridin-3-ylmethoxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid | 36 mg | ClC=1C=C(C=NC1OC)COC1=C(C=CC2=CC=CC=C12)C(=O)NC(C(=O)O)(C)C | C22H21ClN2O5
